US09232800B2
Preparation of 3-(4-chlorophenyl)-5-(furan-2-yl)-4,5-dihydro-1,2,4-oxadiazole, Formula Ia-iii
A mixture of 2-furfural (0.69 mL, 804 mg, 8.4 mmol), 4-chloro-N′-hydroxybenzimidamide (1.02 g, 6.0 mmol) and one drop of piperidine in toluene (100 mL) was heated to reflux for 18 h in a Soxhlett apparatus, that was charged with 3 Angstrom molecular sieves (8 g). The mixture was cooled to room temperature and the solvent was removed in vacuo. After purification by automated column chromatography on the ISCO COMPANION (SiO2, gradient heptane/ethyl acetate) the 3-(4-chlorophenyl)-5-(furan-2-yl)-4,5-dihydro-1,2,4-oxadiazole product was obtained as an orange oil that solidified to a tan solid upon standing (85 mg) with a yield of 6%. LC-MS [M+H] 249 (C12H9ClN2O2+H, expected 249.04)

reactant | 2-furfural | 8.4 mmol, 0.69 mL, 804 mg | C1=COC(=C1)C=O | C5H4O2
reactant | 4-chloro-N′-hydroxybenzimidamide | 6.0 mmol, 1.02 g | ClC1=CC=C(C(N)=NO)C=C1 | C7H7ClN2O
catalyst | piperidine | one drop | N1CCCCC1 | C5H11N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chlorophenyl)-5-(furan-2-yl)-4,5-dihydro-1,2,4-oxadiazole | yield of 6% | ClC1=CC=C(C=C1)C1=NOC(N1)C=1OC=CC1 | C12H9ClN2O2
